US07129232B2
To a suspension of 1-methyl-N5-trityl-1H-pyrazole-4,5-diamine (1.60 g) in ethanol (50 ml) were added triethylamine (0.627 ml) and diethyl squarate (0.858 ml), and the mixture was stirred at room temperature for 22 hours. To the reaction mixture were added ethyl acetate (200 ml) and hexane (100 ml), and the solution was washed successively with water, 5% aqueous citric acid solution and brine. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The crystalline residue was washed with diethyl ether and dried in vacuo to give 3-ethoxy-4-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-cyclobutene-1,2-dione (1.45 g) as a solid.

reactant | 1-methyl-N5-trityl-1H-pyrazole-4,5-diamine | 1.60 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N | C23H22N4
reactant | triethylamine | 0.627 ml | C(C)N(CC)CC | C6H15N
reactant | diethyl squarate | 0.858 ml | CCOC1=C(C(=O)C1=O)OCC | C8H10O4
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | hexane | 100 ml | CCCCCC | C6H14
product | 3-ethoxy-4-{[1-methyl-5-(tritylamino)-1H-pyrazol-4-yl]amino}-3-cyclobutene-1,2-dione | 1.45 g | C(C)OC=1C(C(C1NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C)=O)=O | C29H26N4O3
